### PR TITLE
Add class number problem for real quadratic fields

### LINKED ISSUE #243: Class number problem for real quadratic fields
### What is the conjecture
https://en.wikipedia.org/wiki/Class_number_problem
There are infinitely many real quadratic fields with class number one.

### Prerequisites needed
None

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [X] I plan on working on this conjecture
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by ninohiro**
closes #243

### CODE REVIEW

File: FormalConjectures/Wikipedia/ClassNumberProblem.lean [hunk 1]
```diff
@@ -0,0 +1,46 @@
...
+/-!
+# Class number problem for real quadratic fields
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Class_number_problem)
+-/
+
+def IsClassNumberOne (d : ℤ) : Prop :=
+  ∃ (h₂ : Irreducible (X ^ 2 - C (d : ℚ))),
+  haveI := Fact.mk h₂
+  NumberField.classNumber (AdjoinRoot (X^2 - C (d : ℚ))) = 1
```
Comment (mo271) [inline FormalConjectures/Wikipedia/ClassNumberProblem.lean]:
```suggestion
  NumberField.classNumber (AdjoinRoot (X^2 - C (d : ℚ))) = 1
```
```suggestion
  NumberField.classNumber (AdjoinRoot (X ^ 2 - C (d : ℚ))) = 1
```

Comment (mo271) [inline FormalConjectures/Wikipedia/ClassNumberProblem.lean]: A bit surprising that we don't already have a more useful definition in the place where `classNumber` is definied.

File: FormalConjectures/Wikipedia/ClassNumberProblem.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+There are infinitely many real quadratic fields `ℚ(√d)` with class number one,
+where `d > 1` is a squarefree integer.
+-/
+@[category research open, AMS 11]
+theorem class_number_problem :
+    { d : ℤ | Squarefree d ∧ d > 1 ∧ IsClassNumberOne d }.Infinite := by
+  sorry
+
+/--
+**Stark–Heegner theorem** : For any squarefree integer `d < 0`, the class number of the imaginary quadratic field Q(√d) is one if and only if `d ∈ {-1, -2, -3, -7, -11, -19, -43, -67, -163}`.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/ClassNumberProblem.lean]:
```suggestion
**Stark–Heegner theorem** : For any squarefree integer `d < 0`, the class number of the imaginary 
quadratic field Q(√d) is one if and only if `d ∈ {-1, -2, -3, -7, -11, -19, -43, -67, -163}`.
```



Let's keep the 100 char limit.

File: FormalConjectures/Wikipedia/ClassNumberProblem.lean [hunk 3]
```diff
@@ -0,0 +1,46 @@
...
+-/
+@[category research solved, AMS 11]
+theorem class_number_problem.variants.imaginary :
+    { d : ℤ | Squarefree d ∧ d < 0 ∧ IsClassNumberOne d } = {-1, -2, -3, -7, -11, -19, -43, -67, -163} := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/ClassNumberProblem.lean]:
```suggestion
    { d : ℤ | Squarefree d ∧ d < 0 ∧ IsClassNumberOne d } = 
    {-1, -2, -3, -7, -11, -19, -43, -67, -163} := by
```

**Review by mo271 — APPROVED** [review]
Thanks for the contribution!
